US08703951B2
Dimethyl acetylenedicarboxylate (8.4 g, 59.5 mmol) was added into a mixture of 1,2,3,4-tetrahydro-pyrido[3,4-b]indole-3-carboxylic acid (10 g, 39.6 mmol) in acetic anhydride (70 mL). The reaction mixture was heated at 70° C. with stirring for 2 h and then evaporated in vacuo to dryness. The residue was recrystallized from MeOH to give dimethyl 3-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate, 11.5 g (86%); mp 252-253° C. (lit.20 mp 255-260° C.). 1H NMR (DMSO-d6) δ 2.43 (3H, s, Me), 3.73 (3H, s, COOMe), 3.75 (3H, s, COOMe), 4.16 (2H, s, CH2), 5.21 (2H, s, CH2), 7.02-7.06 (1H, m, ArH), 7.11-7.14 (1H, m, ArH), 7.39 (1H, d, J=8.0 Hz, ArH), 7.52 (1H, d, J=7.8 Hz, ArH), 11.12 (1H, s, exchangeable, NH).

reactant | Dimethyl acetylenedicarboxylate | 59.5 mmol, 8.4 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | 1,2,3,4-tetrahydro-pyrido[3,4-b]indole-3-carboxylic acid | 39.6 mmol, 10 g | C1NC(CC2=C1NC1=CC=CC=C21)C(=O)O | C12H12N2O2
reactant | acetic anhydride | 70 mL | C(C)(=O)OC(C)=O | C4H6O3
product | dimethyl 3-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate | CC1=C(C(=C2CC3=C(NC=4C=CC=CC34)CN12)C(=O)OC)C(=O)OC | C19H18N2O4
